US05731432
A mixture of 1 mmol of 3-(3'-carbobenzyloxypropyl)coformycin aglycone and10 mg of 10% Pd/C in 4 mL of methanol was subjected to hydrogenation. After filtration and removal of the solvent, 3-(3'-carboxypropyl)coformycin aglycone was obtained. This product, 2 mmol glycine ethyl ester hydrochloride, 2 mmol triethylamine, 2 mmol dicyclohexylcarbodiimide and 2 mmol N-hydroxysuccinimide in 10 mL DMF were stirred 16 h and filtered. Chromatography provided N-(4-(3,6,7,8-tetrahydro-imidazo[4,5-d]-[1,3]diazepin-8-ol-3-yl)butyryl)glycine ethyl ester.

reactant | glycine ethyl ester hydrochloride | 2 mmol | Cl.C(C)OC(CN)=O
reactant | triethylamine | 2 mmol | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 2 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 2 mmol | ON1C(CCC1=O)=O | C4H5NO3
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-(3,6,7,8-tetrahydro-imidazo[4,5-d]-[1,3]diazepin-8-ol-3-yl)butyryl)glycine ethyl ester | C(C)OC(CNC(CCCN1C=NC2=C1N=CNCC2O)=O)=O | C14H21N5O4
